Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea and hemoptysis
 
Major Surgical or Invasive Procedure:
intubation - ___
arterial line placement - ___
cardiac catheterization - ___
 
History of Present Illness:
Mr. ___ is an ___ year old man with COPD, CAD, CHF and Afib who 
presented to ___ complaining of dyspnea and hemoptysis. Patient 
reports productive cough with yellow sputum for the past 3 weeks 
that was treated with azithromycin by his primary care doctor 
one week ago. Patient also c/o hemoptysis for the past ___ days, 
which he described as "big globs" of blood. Patient also 
endorses fever and chills at home. 

  At ___, initial VS were 98.1 140 132/67 24 76% RA that 
improved to 95% on NRB. Labs revelaed WBC 13.1 91.6%N and INR 
8.0. CXR revealed RUL consolidation c/f PNA, and he received CTX 
1g IV, Vitamin K and was transfered to ___ for further care. 

  At ___ initail VS were 99.0 120 111/70 24 94% 15L NRB. Labs 
revealed lactate 2.9, WBC 13 92.5%N, HCT 40.7, Cr 2.2, proBNP 
4254, TropT 0.28. ABG 7.43, 28, 81. Patient received 2 units 
FFP, 40mg IV lasix, 10mg IV diltiazem, 30mg PO diltiazem, 500mg 
IV azithromycin and 1g IV vancomycin. The patient was then 
admitted to the MICU.

  On arrival to the MICU, the patient happeard was dyspnic with 
oxygen saturation of 90% on NRB and was placed on non-invasive 
ventillation with improvement to 100% oxygen saturation. 
  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies  shortness of breath, cough, dyspnea or 
wheezing. Denies chest pain, chest pressure, palpitations. 
Denies  constipation, abdominal pain, diarrhea, dark or bloody 
stools. Denies dysuria, frequency, or urgency. Denies 
arthralgias or myalgias. Denies rashes or skin changes.  

 
Past Medical History:
- Atrial fibrillation and systolic CHF. EF of 35% to 40%
- CAD s/p CABG (2 vessel, LIMA to LAD, rSVG to OM) in ___
- Rheumatic heart disease s/p bioprosthetic AVR in ___
- Mitral valve prolapse
- Bioprosthetic AVR ___ (bovine)
- AAA 3.9 cm in ___ follow at ___
- Hypertension
- High cholesterol
- Restrictive lung disease
- Asthma
- Polymyalgia rheumatica, on 10mg prednisone daily
- History of cholecystectomy
- Hemorrhoids
- Chronic renal insufficiency, baseline creatinine 1.6 to 1.9
- Cataract surgery, left
- Anemia
- Seasonal allergy
- Chronic anal fissure

 
Social History:
___
Family History:
Pt is adopted, so unknown.
 
Physical Exam:
Admission Physical Exam:
General: Tachypnic, oriented, mild respiratory distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP elevated to 16cm H2O, no LAD  
CV: tachycardic irrgeular rhythm, no rubs, gallops  
Lungs: Rales in RUL and ___ bases, no wheezes,  
Abdomen: soft, non-distended, bowel sounds present, no 
organomegaly, no tenderness to palpation, no rebound or guarding
GU: foley in place  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: CNII-XII intact, MAEW

 
Pertinent Results:
Admission Labs:
___ 10:50AM BLOOD WBC-13.0*# RBC-4.32* Hgb-12.6* Hct-40.7 
MCV-94 MCH-29.2 MCHC-31.0 RDW-14.0 Plt ___
___ 10:50AM BLOOD Neuts-92.5* Lymphs-4.0* Monos-3.0 Eos-0.4 
Baso-0.2
___ 10:50AM BLOOD ___ PTT-33.8 ___
___ 10:50AM BLOOD Glucose-157* UreaN-69* Creat-2.2* Na-135 
K-4.9 Cl-99 HCO3-21* AnGap-20
___ 10:50AM BLOOD Calcium-8.7 Phos-3.4 Mg-1.6
___ 11:05AM BLOOD Lactate-2.9*

Cardiac Labs:
___ 10:50AM BLOOD CK-MB-8 cTropnT-0.29* proBNP-4254*
___ 10:50AM BLOOD cTropnT-0.28*
___ 10:50AM BLOOD CK(CPK)-283
___ 10:13PM BLOOD CK-MB-4 cTropnT-0.37*
___ 10:13PM BLOOD CK(CPK)-215
___ 05:35AM BLOOD CK-MB-4 cTropnT-0.24*
___ 05:35AM BLOOD CK(CPK)-169
___ 01:24PM BLOOD CK-MB-5 cTropnT-0.18*
___ 01:24PM BLOOD CK(CPK)-138

Interim Labs:
___ 05:35AM BLOOD Cortsol-30.1*

Microbiology:
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ URINE URINE CULTURE-FINAL 
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL 
{YEAST} 
___ MRSA SCREEN MRSA SCREEN-FINAL 
___ URINE Legionella Urinary Antigen -FINAL 
___ URINE URINE CULTURE-FINAL 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
.
Imaging:
CXR ___
Possible asymmetric right greater than left, pulmonary edema; 
superimposed 
infectious process not excluded. Given history of hemoptysis, 
underlying 
pulmonary hemorrhage is not excluded. Small right pleural 
effusion. 

CXR ___
Status post median sternotomy for CABG with overall stable 
cardiac and 
mediastinal contours. Prosthetic aortic valve. There is interval 
worsening 
of bilateral airspace and interstitial process which may reflect 
pulmonary 
edema, worsening pneumonia, or a progressing hypersensitivity 
reaction.  
Pulmonary hemorrhage could also have this appearance. Clinical 
correlation is advised. No pneumothorax. No acute pulmonary 
abnormality appreciated. 

TTE ___
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is borderline low (LVEF 50%). A bioprosthetic aortic 
valve prosthesis is well seated, with normal leaflet/disc motion 
and transvalvular gradients. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
borderline low left ventricular systolic function. Well-seated 
bioprosthetic aortic valve with normal transvalvular gradients. 
Mild to moderate mitral regurgitation.
Compared with the prior study (images reviewed) of ___, the 
left ventricular function appears less vigorous. The gradients 
across the bioprosthetic aortic valve are normal.  

CXR ___
FINDINGS: As compared to the previous radiograph, there are 
unchanged 
bilateral airspace opacities and a small right pleural effusion. 
The 
opacities and the effusion have not changed in the interval. 
Moderate 
cardiomegaly, status post CABG with subsequent position of the 
surgical 
material. No other relevant findings. 

CXR ___
IMPRESSION: Slight improvement in diffuse pulmonary opacities, 
suggesting 
decrease in edema, with probable superimposed pneumonia. 

CT Chest ___
FINDINGS: There is mild, apical-predominant centrilobular and 
paraseptal 
emphysema. Diffuse ground-glass opacities are present throughout 
both lungs, involving all lobes and extending to the pleural 
surfaces. Early fibrosis with mild honeycombing at the lung 
bases. Mild diffuse peribronchial wall thickening, but no 
interstitial thickening. No pleural effusions.  Heart is normal 
in size, without pericardial effusion. Changes of coronary 
artery bypass grafting, with mediastinal clips. Note is made of 
a prosthetic aortic valve and discarded right atrial/ventricular 
pacemaker leads. Diffuse calcific atherosclerosis is present in 
the thoracic aorta.  Prominent mediastinal nodes measure up to 
12 mm in short axis in the superior right paratracheal region, 
10 mm in the inferior right paratracheal region, and 13 mm in 
the subcarinal region. Changes of median sternotomy, with 
multiple chronically fractured and malpositioned sternal wires. 
No sternal fluid collections or osseous abnormalities. 
Examination is not tailored for subdiaphragmatic evaluation, but 
reveals a 
nasogastric tube in appropriate position. Gastric diverticulum 
arises from 
the greater curvature. Cholecystectomy changes. Accesorry 
splenule is 
present. Multiple colonic diverticula, without acute 
inflammation.  
IMPRESSION: Diffuse ground-glass pulmonary opacities and early 
fibrosis.  
Given patient history, this may represent acute-on-chronic 
organizing 
pneumonia, acute interstitial pneumonitis, less likely fibrosis 
with 
superimposed infection.  
.
Right Heart Cardiac Catheterization ___
Cardiac Output Results
PhaseFick C.O. (l/min)Fick C.I.(l/min/m2)
     4.39               2.25
Hemodynamic Measurements (mmHg)
Baseline
SiteSysDiasEndMeanA WaveV WaveHR
RA      ___
RV      ___
___    ___
___      ___
Radiology Summary
Total Cine Runs
Fluoro Time (minutes)0.90
Effective Equivalent Dose Index (mGy) 12.43
Findings
ESTIMATED blood loss: <10 cc
Hemodynamics (see above): 
Assessment & Recommendations
1.Mild pulmonary hypertension
2.Mildly elevated filling pressures.
3.Preserved Cardiac Output.
4.No indication for selective pulmonary vasodilators.
.
___ CXR
REPORT: Status post sternotomy. NG tube courses throughout the 
mediastinum to its expected location in the stomach. The ET tube 
is in good position, lying about 4 cm above the carina. 
There is a right-sided internal jugular line in unchanged 
position. There is symmetrical blunting of both costophrenic 
sulci. Generalized increased lung markings consistent most with 
fluid overload are grossly unchanged. 
More confluent abnormalities in the left lung base in particular 
are also 
unchanged. I note also CT from ___ suggesting this and 
in fact very little fluid overload, so presumptively the changes 
represent the ongoing alveolitis-type changes identified on that 
radiograph. 
.
___ CXR
FINDINGS: Bilateral diffuse lung opacities are presisting. On 
concurrent 
review with prior chest CT dated ___, these opacities 
represent a 
combination of ground-glass opacities and consolidation and 
bibasilar 
fibrosis, unchanged since ___, but improved since ___. All these changes are more on the right side and may 
represent continuing 
alveolitis. As appreciated on recent chest CT, there was no 
component of 
pulmonary edema then nor in today's radiograph. Mild widening of 
the 
mediastinum is from increased mediastinal fat in conjunction 
with multiple 
lymph nodes as appreciated on the chest CT. There is evidence of 
prior median sternotomy and sternal sutures are intact. 
Effusions, if any, are small bilaterally and unchanged. There is 
no pneumothorax. Heart size is normal.  
Hilar contours are unremarkable. Aorta has a mild tortuous 
course and 
demonstrates mild-to-moderate and severe atherosclerotic 
calcification. 

 
Brief Hospital Course:
___ with COPD, CAD, CHF and Afib presenting with cough, dyspnea 
and hemoptysis admitted with PNA and pulmonary edema.

# Dyspnea and Sepsis: Patient likely had bacterial pneumonia 
that followed a viral URI several weeks ago. On admission, felt 
to have pulmonary edema and pneumonia, treated for both with 
ceftriaxone/azithromycin and diuresis.  After 7L diuresis, 
patient had no improvement.  On ___ he was noted to have 
increasing respiratory distress and was electively intubated.  
Following intubation he became hypotensive and required pressor 
support during ___ and ___.  Cardiac Catheterization showed 
wedge of 14 with V wave of 80. CT Chest revealed ground-glass 
opacities consistent with acute-on-chronic organizing pneumonia 
or acute interstitial pneumonitis.  Was treated with high dose 
steroids with apparent initial improvement and was extubated.  
His mental status was very altered after extubation requiring 
olanazpine with mild effect.  He had a respiratory 
decompensation after several days of extubation requiring 
reintubation.  Abx were broadened to vanco/zosyn and he was 
started on solumedrol 1gm IV for 3 days for concern for 
undertreated COP, as his infectious work-up to date had not been 
revealing and his extensive work-up for cardiac causes of his 
dyspnea and respiratory failure was negative. As such, given the 
lack of an alternative diagnosis and the suspicion that COP may 
be the cause of his respiratory failure, aggressive 
glucocorticoid treatment was pursued in an effort to give him 
every chance to survive his acute illness. After three days of 
treatment with pulse-dose Solumedrol, however, there was no 
meaningful improvement in his respiratory status and his overall 
clinical status was progressively worsening with progressive 
acute renal failure, falling platelets, and worsening mental 
status (decreasing responsiveness despite holding sedative.) To 
objectively assess his pulmonary response to steroids, we 
obtained a repeat CT scan after completing three days of pulse 
dose steroids which did not show improvement. Given this, and 
given overall status of resp failure, renal failure, altered 
mental status - several meetings were held with the patient's 
son ___ (the patient's HCP) and decision was made to move to 
___.  Terminally extubated and passed away on ___ with son at 
bedside.
.
# AMS - ICU delirium compounded by high steroid dose.  Managed 
with olanzapine with mild effect. His mental status deteriorated 
to the point that he was essentially non-responsive, including 
several absent brinstem reflexed (no corneal reflex, no cough, 
no gag, minimal pupillary response) prior to his being 
transitioned to ___ care. 
.
# Anuric renal failure - Patient was noted to have increasing 
Creatinine after reintubation that was concerning for ATN due to 
an episode of hypotension and hypoperfusion.  His creatinine 
continued to rise and he developed anuric renal failure over the 
last day of his ICU stay. 
.
# Afib w/ RVR: Patient had a HR in the 140s at ___ and received 
10mg IV and 30mg PO diltiazem at ___ ED. His HR was controlled 
to 100-120 by arrival to the ICU.  His home metoprolol was 
initially resumed, stopped ___ given hypotension.  Digoxin was 
started ___ for rhythm control.
 
Medications on Admission:
Aspirin 81 mg daily
Omeprazole 20 mg daily
Saline Nasal spray daily
Warfarin 2.5 mg daily
Lasix 20 mg daily
Metoprolol Succinate 50 mg daily
Pravastatin 80 mg daily
Ropinirole 0.5 mg BID
Fluticasone 110 mcg/Actuation 2 Puff BID
Fluticsone 50 mcg nasal spray
Prednisone 10 mg daily

 
Discharge Medications:
Patient expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Hypoxic respiratory failure
Anuric renal failure
Atrial fibrillation with RVR
Delirium
 
Discharge Condition:
Patient expired after having been transitioned to CMO after 
progressive multiorgan system failure prompted discussion with 
his family and HCP. 
 
Discharge Instructions:
Patient expired.
 
Followup Instructions:
___